US04386031
(b) 8-[4-Chloro-N-(2.6-dimethylphenyl)-benzamido]-caprylic acid
As described in example 1(b), the reaction is carried out with 15.8 g (38 mmol) of 8-[4-Chloro-N-(2.6-dimethylphenyl)-benzamido]-caprylic acid methyl ester, 2.2 g (55 mmol) of sodium hydroxide, 100 cc. of methanol and 5 cc. of water. Reaction time: 20 hours, reaction temperature: 25° C. The crude product is further purified chromatographically on silicic acid gel using chloroform as eluant.

reactant | 8-[4-Chloro-N-(2.6-dimethylphenyl)-benzamido]-caprylic acid methyl ester | 38 mmol, 15.8 g | COC(CCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=C(C=CC=C1C)C)=O | C24H30ClNO3
reactant | sodium hydroxide | 55 mmol, 2.2 g | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 8-[4-Chloro-N-(2.6-dimethylphenyl)-benzamido]-caprylic acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCCCCCC(=O)O)C=C1 | C23H28ClNO3
